US09193728B2
3,4-Dihydro-1H-quinoxalin-2-one (500 mg, 3.378 mmol) was dissolved in 3N HCl (10 mL) and stirred for 5 min. at 0° C. A solution of sodium nitrite (256 mg, 3.716 mmol) in water (2 mL) was added at 0° C., and the reaction mixture was stirred for 2 h at RT. After completion of reaction, water was added and the mixture extracted twice with DCM (100 mL). The combined organic layers were washed with water, dried over sodium sulfate and concentrated under reduced pressure to obtain 400 mg of 3,4-dihydro-4-nitrosoquinoxalin-2(1H)-one.

reactant | 3,4-Dihydro-1H-quinoxalin-2-one | 3.378 mmol, 500 mg | N1C(CNC2=CC=CC=C12)=O | C8H8N2O
reactant | sodium nitrite | 3.716 mmol, 256 mg | N(=O)[O-].[Na+]
solvent | HCl | 3N, 10 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 3,4-dihydro-4-nitrosoquinoxalin-2(1H)-one | 400 mg | N(=O)N1CC(NC2=CC=CC=C12)=O | C8H7N3O2
